US07592358B2
14.1a. 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-(2-hydroxyethoxy)benzaldehyde
The product was prepared analogously to Example 7.1e starting from 2-(2-hydroxyethoxy)-5-iodobenzaldehyde and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 5.53 g (86% of theoretical); C22H16ClNO3 (M=377.820); calc.: molpeak (M+H)+: 378/380 (Cl); found: molpeak (M+H)+: 378/380 (Cl); HPLC-MS: 5.79 minutes (method B).

reactant | 2-(2-hydroxyethoxy)-5-iodobenzaldehyde | OCCOC1=C(C=O)C=C(C=C1)I | C9H9IO3
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-(2-hydroxyethoxy)benzaldehyde | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C=O)C1)OCCO | C22H16ClNO3
